US08466290B2
2-phenyl-N-[5-(2-thienyl)-1,3,4-oxadiazol-2-yl]-6-trifluoromethoxy-4-quinolinecarboxamide (compound Ia-122)
p-toluenesulfonyl chloride (32.7 mg, 0.17 mmol) was added to a pyridine (2 mL) solution of 4-(2-phenyl-6-trifluoromethoxy-4-quinolinecarbonyl)-1-(2-thiophenecarbonyl)thiosemicarbazide (70 mg, 0.14 mmol) described in Reference Example 28, and the mixture was stirred overnight at room temperature. The reaction solution was concentrated. After that, to the residue, water was added, and the deposited crystal was collected by filtration, washed with water, dried, and then purified by silica gel column chromatography to obtain the title compound (16 mg, 0.03 mmol).

reactant | p-toluenesulfonyl chloride | 0.17 mmol, 32.7 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 4-(2-phenyl-6-trifluoromethoxy-4-quinolinecarbonyl)-1-(2-thiophenecarbonyl)thiosemicarbazide | 0.14 mmol, 70 mg | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C(=C1)C(=O)NC(NNC(=O)C=1SC=CC1)=S)OC(F)(F)F | C23H15F3N4O3S2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 2-phenyl-N-[5-(2-thienyl)-1,3,4-oxadiazol-2-yl]-6-trifluoromethoxy-4-quinolinecarboxamide | 0.03 mmol, 16 mg | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C(=C1)C(=O)NC=1OC(=NN1)C=1SC=CC1)OC(F)(F)F | C23H13F3N4O3S
